US06531477B1
Part B: To a stirred solution of 167 mg (0.5 mmol) of 5-amino-3-ethyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide in 6 mL of absolute ethanol was added 550 mg (3.0 mmol) of 3-methoxyphenylacetyl chloride followed by 2.3 mL (6.0 mmol) of 2.66 M sodium ethoxide in ethanol. The solution was stirred 18 h at reflux, and the heating mantle was then removed. The reaction was treated with 5 mL of 10% aq. HOAc, cooled to ambient temperature, and filtered. The filtrate was washed with 6 mL of 1:1 water-methanol then 6 mL of 1:1 ether-hexanes. The off-white solid was briefly air-dried to give 170 mg (76%) of 1-(2,4,6-trichlorophenyl)-3-ethyl-6-(3-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one, mp 235-238° C. Mass Spec.: 463 (M+H)+.

reactant | 5-amino-3-ethyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide | 0.5 mmol, 167 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)CC)C(=O)N | C12H11Cl3N4O
reactant | 3-methoxyphenylacetyl chloride | 3.0 mmol, 550 mg | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | sodium ethoxide | 6.0 mmol, 2.66 M, 2.3 mL | [O-]CC.[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-(2,4,6-trichlorophenyl)-3-ethyl-6-(3-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 170 mg, 76% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=CC=C2)OC)CC | C21H17Cl3N4O2
